US05053548
A mixture was prepared by mixing 0.5 g of 4-allyl-2-[5allyl-2-(2-chloroethoxy)phenyl]phenol and 1.5 g of sodium iodide with 20 ml of acetonitryl. The mixture was refluxed by heating for 4 hours with stirring, 1 ml of diethylamine was added thereinto, refluxed for 3 hours with stirring and concentrated. The concentrate, wherein water solution of sodium hydrogencarbonate was added, was extracted with chloroform, dried with sodium sulfate and concentrated. The concentrate was purified by a silica gel column-chromatography (dichloromethane:methanol=30:1) to yield 0.3 g of 4-allyl-2-{5-allyl-2-[2- (N, N-diethyl-amino)ethoxy]phenyl}phenol.

reactant | 4-allyl-2-[5allyl-2-(2-chloroethoxy)phenyl]phenol | 0.5 g | C(C=C)C1=CC(=C(C=C1)O)C1=C(C=CC(=C1)CC=C)OCCCl | C20H21ClO2
reactant | sodium iodide | 1.5 g | [I-].[Na+]
reactant | diethylamine | 1 ml | C(C)NCC | C4H11N
product | 4-allyl-2-{5-allyl-2-[2- (N, N-diethyl-amino)ethoxy]phenyl}phenol | 0.3 g | C(C=C)C1=CC(=C(C=C1)O)C1=C(C=CC(=C1)CC=C)OCCN(CC)CC | C24H31NO2
